US05700809
3-(4-(Benzothiophen-2-yl)-1,2,3,6-tetrahydropyridin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine
Reaction of 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine and 4-(benzothiophen-2-yl)-1,2,3,6-tetrahydropyridine in an analogous manner to Example 4 gave the title compound, m.p. 241°-246° C. (dec.); (Found: C, 72.85; H, 5.54; N, 12.06; C21H19N3S requires C, 73.01; H, 5.54; N, 12.16%); δH (DMSO-d6) 2.51 (2H, br s, tetrahydropyridinyl CH2), 2.67 (2H, m, tetrahydropyridinyl CH2), 3.14 (2H, m, tetrahydropyridinyl CH2), 3.76 (2H, s, CH2N), 6.19 (1H, br s, CH=CR), 7.03 (1H, m, ArH), 7.31 (2H, m, 3'-H and ArH), 7.74 (1H, d, J 8 Hz, ArH), 7.86 (1H, d, J 8 Hz, ArH), 8.05 (1H, d, J 8 Hz, ArH), 8.20 (1H, m, ArH), and 11.45 (1H, br s, NH); m/z (CI+, NH3) 346 (M+1)+.

reactant | 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine | CN(C)CC1=CNC2=NC=CC=C21 | C10H13N3
reactant | 4-(benzothiophen-2-yl)-1,2,3,6-tetrahydropyridine | S1C(=CC2=C1C=CC=C2)C=2CCNCC2 | C13H13NS
product | 3-(4-(Benzothiophen-2-yl)-1,2,3,6-tetrahydropyridin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine | S1C(=CC2=C1C=CC=C2)C=2CCN(CC2)CC2=CNC1=NC=CC=C12 | C21H19N3S
